US08470805B2
Preparation of KMUP-1-Nateglinide Complex (14)
KMUP-1 (8.0 g) is dissolved in a mixture of ethanol (100 mL) and water (30 mL), to which nateglinide (9.1 g) dissolved in ethyl alcohol (150 mL) is added, and the mixture is reacted at 50° C. for 20 mins. After cooling the mixture, the white precipitate is obtained, to which the methanol is added under room temperature and being incubated over night for re-crystallization. After filtering, KMUP-1-nateglinide complex (15.3 g) is obtained.

reactant | KMUP-1 | 8.0 g | CN1C2=C(C(=O)N(C1=O)C)N(C=N2)CCN3CCN(CC3)C4=CC=CC=C4Cl | C19H23ClN6O2
reactant | nateglinide | 9.1 g | CC([C@H]1CC[C@@H](CC1)C(=O)N[C@@H](C(=O)O)CC2=CC=CC=C2)C | C19H27NO3
reactant | methanol | CO | CH4O
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 30 mL | O | H2O
solvent | ethyl alcohol | 150 mL | C(C)O | C2H6O
product | KMUP-1 Nateglinide | CN1C2=C(C(=O)N(C1=O)C)N(C=N2)CCN3CCN(CC3)C4=CC=CC=C4Cl.CC([C@H]1CC[C@@H](CC1)C(=O)N[C@@H](C(=O)O)CC2=CC=CC=C2)C | InChI=1S/C19H23ClN6O2.C19H27NO3/c1-22-17-16(18(27)23(2)19(22)28)26(13-21-17)12-9-24-7-10-25(11-8-24)15-6-4-3-5-14(15)20;1-13(2)15-8-10-16(11-9-15)18(21)20-17(19(22)23)12-14-6-4-3-5-7-14/h3-6,13H,7-12H2,1-2H3;3-7,13,15-17H,8-12H2,1-2H3,(H,20,21)(H,22,23)/t;15-,16-,17-/m.1/s1
